US09034866B2
Into a 3-L 4-necked round-bottom flask purged and maintained with an inert atmosphere of argon was placed 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid (130 g, 377.74 mmol, 1.00 equiv), NH4Cl (81.95 g, 1.53 mol, 4.08 equiv), tetrahydrofuran (1 L), DIEA (97.782 g, 756.59 mmol, 2.00 equiv), and HATU (158.08 g, 415.75 mmol, 1.10 equiv). The resulting solution was stirred at room temperature overnight and diluted with 2.5 L of ice/water. The solids were collected by filtration, washed with 4×1 L of water and dried to afford 84.2 g (65%) of 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide as a brown solid. LC-MS: 343 [M+H]+ 1H NMR (300 MHz, DMSO, ppm) δ 3.33-3.43 (m, 2H), 4.36-4.39 (m, 2H), 7.02-7.14 (d, 1H), 7.88 (s, 1H), 8.52 (s, 1H), 8.88-8.90 (d, 1H). 19F-NMR (300 MHz, DMSO, ppm) δ 107.91 (s, 1F).

reactant | 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid | 377.74 mmol, 130 g, 1.00 equiv | BrC=1C(=CC2=C(C=3N=C(SC3CCO2)C(=O)O)C1)F | C12H7BrFNO3S
reactant | NH4Cl | 1.53 mol, 81.95 g, 4.08 equiv | [NH4+].[Cl-]
reactant | DIEA | 756.59 mmol, 97.782 g, 2.00 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 415.75 mmol, 158.08 g, 1.10 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | 84.2 g, 65% | BrC=1C(=CC2=C(C=3N=C(SC3CCO2)C(=O)N)C1)F | C12H8BrFN2O2S
